US05874427
N-(methanesulfonyl)-3-(1,2,3,4,5,8-hexahydroindolizin-7-yl)-5-amino-1H-indole
The N-(methanesulfonyl)-5-amino-1H-indole (1.06 g, 5.00 mmol) and the 7-indolizinone (900 mg, 6.50 mmol) were converted to product by the procedure of Example 2 to give 807 mg. (48.7%).

reactant | N-(methanesulfonyl)-5-amino-1H-indole | 5.00 mmol, 1.06 g | CS(=O)(=O)N1C=CC2=CC(=CC=C12)N | C9H10N2O2S
reactant | 7-indolizinone | 6.50 mmol, 900 mg | C1=CCN2C=CC(C=C12)=O | C8H7NO
product | N-(methanesulfonyl)-3-(1,2,3,4,5,8-hexahydroindolizin-7-yl)-5-amino-1H-indole | CS(=O)(=O)N1C=C(C2=CC(=CC=C12)N)C1=CCN2CCCC2C1 | C17H21N3O2S
